US05102667
A solution of N-[[2-(4-morpholinyl)-phenyl]thioacetyl]morpholine (2.78 g) in a mixture of acetic acid (25 cc) and 37% hydrochloric acid (25 cc) is refluxed for 8 hours and then concentrated to dryness under reduced pressure (2.7 kPa). The residue is taken up in ethyl acetate (20 cc) and normal sodium hydroxide solution (20 cc). The aqueous phase is acidified to pH 5 with acetic acid and then extracted with ethyl acetate (20 cc). This organic phase is washed with water (2×4 cc), dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). 2-[2-(4-Morpholinyl)phenyl]acetic acid (0.48 g) melting at 128° C. is obtained.

reactant | N-[[2-(4-morpholinyl)-phenyl]thioacetyl]morpholine | 2.78 g | N1(CCOCC1)C1=C(C=CC=C1)CC(=S)N1CCOCC1 | C16H22N2O2S
reactant | acetic acid | 25 cc | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 25 cc | Cl | ClH
product | 2-[2-(4-Morpholinyl)phenyl]acetic acid | 0.48 g | N1(CCOCC1)C1=C(C=CC=C1)CC(=O)O | C12H15NO3
